Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Morphine / Amoxicillin / Latex
 
Attending: ___
 
Chief Complaint:
pelvic pain
 
Major Surgical or Invasive Procedure:
Total Laparoscopic Hysterectomy, Right Salpingo-oophorectomy, 
lysis of adhesions, cystoscopy 

 
History of Present Illness:
___ G0P0 premenopausal
Caucasian female with multiple medical issues (asthma, HTN,
seasonal allergies, GERD, anxiety, and depression, ADHD) and
and surgically-confirmed endometriosis ___ ex-lap LSO for
endometrioma, ___ LSC exc endo LOA).  Pt presents today to
discuss alternative treatment for endoemtriosis-related pelvic
pain due to severe pelvic pain unresponsive to continuous COCs  

Pt was initially consulted by myself ___.  She ultimately
underwent conservative LSC surg for surg tx of endometriosis due
to difficulty tolerating Lupron SE's and limited response to med
tx with COCs.  Intra-op findings confirmed pelvic abd adhesions,
restroperitoneal fibrosis and diffuse endometriosis.  Multiple
sites were excised where endometriosis and endosalingiosis was
confirmed on path.  

Since then, pt has been managed by yourself and is currently on
continuous COCs.  After the laparoscopic surgery, the patient's
mother reports pt had pain relief for "a while" ~ ___ or so.  
She
began to experience recurrent pelvic pain and was started on
cyclic COCs.  over the past ___ yrs she has been taking switching
between cyclic and continuous COCs with limited effect. 
Therefore, she presents today to discuss the potential for
TLH/BSO.
 
Past Medical History:
OB History:  G0, P0, the patient never conceived.

GYN History:  Menarche at age ___.  LMP ? on cont COCs.  
- denies history of abnormal Pap smears.  
- pt is not very sexually active d/t pelvic pain. pt is
heterosexual, married, and monogamous with her husband.  
- BC: COCs
- denies a history of STDs.

Medical Problems:
1.  Asthma- hospitalized at age of ___, s/p steroid tx years
ago,denies intubations.
2.  Hypertension- prev tx' w/ lisinopril, then off all meds -->
restarted on restarted on lisinopril for HTN in ___ w/
good effect per PCP.
3.  Seasonal and environmental allergies.
4.  Moderate obesity.
5.  GERD.
6.  Anxiety.
7.  Depression, now on Zoloft.
8.  ADHD
9.  Learning disabilities.
10. Endometriosis, see above.
11. Sinus arrythmia, syncope x3 
    - ECHO (___) neg w/ EF 63.3%, mild LVH, no wall motion 
        abnormalities, all valves nl
    - EKG (___) w/ precipitous HR drop 100--> 64 w/in 10 sec

Past Surgical History:  
1. ___, laparoscopic LSO at ___,
___, left endometrioma as well as endometriosis.
2. ___, ___ exc/fulg of mult implants of endometriosis, 
LOA,
RUL, by Dr. ___ @ ___.

Allergies:
1.  Morphine, which causes rash and pruritus.
2.  Amoxicillin, which causes rash. 
3.  Latex allergy.

 
Social History:
___
Family History:
- maternal aunts with breast cancer, denies any other GYN 
cancers
in the family .
- mat ___ cousin w/ ___ cancer
- mat Aunt w/ leukemia
- mat Aunt w/ melanoma
- maternal aunt with diabetes, 
- mother and aunts with hypertension, heart disease
- depression, anxiety, and mental illness in the family.
 
Physical Exam:
Pre-admission exam:
Pleasant, somewhat overweight Caucasian female, in no acute 
distress. 
BP: 180/113. Heart Rate: 109. Weight: 177 (With Clothes). 
Height:
64 (Patient Reported). BMI: 30.4. Pain Score: 8. O2 Saturation%:
99.
HEENT: normocephalic/atraumatic, anicteric sclera
Neck: supple, full range of motion, no thyromegaly or nodules
Lymphatic: no palpable neck lymphadenopathy
Back: no CVA tenderness
Lungs: clear to auscultation bilaterally, good inspiratory 
effort
CV: regular rate and rhythm, no murmurs/rubs/gallops
Abd: +bowel sounds, soft, non-tender, non-distended, no R/G
Extremities: no clubbing/cyanosis/edema
Abdomen:  Soft, NT/ND, +BS, no R/G. well-healed low transverse
and LSC incisions.  
Pelvic:  Grossly normal external female genitalia.  
Speculum exam: cervix is high, no unusual bleeding, lesions, or
discharge.  + tenderness on deep insertion of speculum.  
Bimanual exam: retroverted uterus with diffuse TTP in posterior
CDS, + retrocervical tenderness, uterosacral ligaments were not
easily palpable.  Rectovaginal exam was deferred.

Pre-op Exam
VS: BP 137/87, HR 96
CV: RRR
Lungs: CTAB
Abd: soft, NT

Exam on discharge:
Gen: NAD, BP 119/63
CV: RRR
Lungs: CTAB
Abd: appropriately tender, non-distended
Ext: non-tender to palpation
 
Brief Hospital Course:
Ms ___ underwent an uncomplicated total laparoscopic 
hysterectomy, right salpingo-oophorectomy, lysis of adhesions, 
and cystoscopy for endometriosis and pelvic pain; see operative 
report for details. 

She was meeting all post-operative milestones on post-operative 
day 0 in the recovery room, except that she had not yet voided. 
She was offered admission given the late time of day (after 
___), and accepted. She had an uncomplicated recovery and was 
discharged home on postoperative day #1 in good condition: 
ambulating and urinating without difficulty, tolerating a 
regular diet, and with adequate pain control using PO 
medication.

With respect to her anxiety and depression, she was continued on 
her home medications of sertraline and ativan. With respect to 
her hypertension, she was not continued on her home lisinopril 
in the hospital as her blood pressure remained well controlled. 
Her oral contraceptives were also not continued following 
surgery. 

 
Medications on Admission:
DROSPIRENONE-ETHINYL ESTRADIOL [___]
LORAZEPAM - lorazepam 1 mg tablet. 1 tablet(s) by mouth twice a
day
METHYLPHENIDATE - methylphenidate 20 mg tablet. 1 tablet(s) by
mouth three times a day
MONTELUKAST [SINGULAIR] - Singulair 10 mg tablet. 1 tablet(s) by
mouth once a day
SERTRALINE - sertraline 50 mg tablet. 1 tablet(s) by mouth once 
a
day
Lisinopril 10mg daily

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Docusate Sodium 100 mg PO BID 
3. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN pain 

4. Ibuprofen 600 mg PO Q6H:PRN pain 
5. Sertraline 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months
* No heavy lifting of objects >10lbs for 6 weeks.    
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
 
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___